* Z:\home\solomon\ICWC\Mini_Projects\Mini_Project_2\LNA.asc
XX1 N005 N002 0 0 nmos65 params: L=65nm, W=6500nm
R1 N006 N004 50
V1 N006 0 SINE(0 10u 2.5Giga) AC 1
R2 N002 N001 10k
C1 N003 N002 100f
R3 N003 0 100k
Vdd N001 0 100m
R4 N001 N005 0.8Mega
R5 N005 0 1Mega
C2 N005 N004 100µ

* block symbol definitions
.subckt nmos65 G D S B
M1 D G S B NMOS l={L} w={W} ad='2*65n*{W}' as='2*65n*{W}' pd='2*(2*65n+{W})' ps='2*(2*65n+{W})' m={M}
.PARAM L=65n W=1u M=1
.ends nmos65

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.mos
;ac dec 100 2G 3G
.tran 0 0.01u 0
.backanno
.end
